US05614544
A mixture of 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propyl]-2,4-oxazolidinedione (0.28 g), hydroxylamine hydrochloride (0.09 g), sodium acetate (0.11 g) and 80% methanol (20 ml) was stirred under refluxing conditions for 2 hours. The reaction mixture was poured over water; the resulting crystal was collected by filtration to yield 5-[3-[4-[1-hydroxyimino-3-(5-methyl-2-phenyl-4-oxazolyl)propyl]phenyl]propyl]-2,4-oxazolidinedione (0.26 g, 90%), which was then recrystallized from dichloromethane-methanol to yield colorless prisms having a melting point of 185°-186° C.

reactant | 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propyl]-2,4-oxazolidinedione | 0.28 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H24N2O5
reactant | hydroxylamine hydrochloride | 0.09 g | Cl.NO
reactant | sodium acetate | 0.11 g | C(C)(=O)[O-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 5-[3-[4-[1-hydroxyimino-3-(5-methyl-2-phenyl-4-oxazolyl)propyl]phenyl]propyl]-2,4-oxazolidinedione | 0.26 g, 90% | ON=C(CCC=1N=C(OC1C)C1=CC=CC=C1)C1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H25N3O5
